US04585774
6.15 Grams of o-carbamoyl-α-(1-piperazinyl)acetanilide and 2.4 g of triethylamine were dissolved in 50 ml of methylene chloride, then to this solution was added dropwise a methylene chloride solution of 5.4 g of 3,4-dimethoxybenzoyl chloride under ice-cooled condition with stirring. The reaction was carried out at the same temperature for 1 hour, then the reaction mixture was washed with water, 5%-sodium bicarbonate aqueous solution, and an aqueous solution of potassium carbonate, then dried. Methylene chloride was removed by distillation, the residue was purified by a silica gel column chromatography, the product obtained was converted into a hydrochloride by adding hydrochloric acid-ethanol, then recrystallized from water-acetone to obtain 5.1 g of o-carbamoyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide monohydrochloride monohydrate in the form of colorless needle-like crystals. Melting point: 122.0°-125.0° C. (decomposed).

reactant | o-carbamoyl-α-(1-piperazinyl)acetanilide | C(N)(=O)C1=C(NC(CN2CCNCC2)=O)C=CC=C1 | C13H18N4O2
reactant | 3,4-dimethoxybenzoyl chloride | 5.4 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid ethanol | Cl.C(C)O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
product | o-carbamoyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide monohydrochloride monohydrate | 5.1 g | O.Cl.C(N)(=O)C1=C(NC(CN2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)=O)C=CC=C1 | InChI=1S/C22H26N4O5.ClH.H2O/c1-30-18-8-7-15(13-19(18)31-2)22(29)26-11-9-25(10-12-26)14-20(27)24-17-6-4-3-5-16(17)21(23)28;;/h3-8,13H,9-12,14H2,1-2H3,(H2,23,28)(H,24,27);1H;1H2
